US06797823B1
N-(2,4-Difluorophenyl)-N′-{-2-fluoro-4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]phenyl}-urea
4-(4-Amino-3-fluorophenoxy)-6-methoxy-7-quinolinol (70 mg) was dissolved in chloroform (1.5 ml) and N,N-dimethylformamide (1 ml). 2,4-Difluorophenyl isocyanate (43 mg) was then added to the solution, and a reaction was allowed to proceed at room temperature for 3 hr. Methanol was added to the reaction solution. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography on silica gel by development with chloroform/methanol (20/1) to quantitatively give the title compound.

reactant | 4-(4-Amino-3-fluorophenoxy)-6-methoxy-7-quinolinol | 70 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C16H13FN2O3
reactant | 2,4-Difluorophenyl isocyanate | 43 mg | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | Methanol | CO | CH4O
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2,4-Difluorophenyl)-N′-{-2-fluoro-4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]phenyl}-urea | FC1=C(C=CC(=C1)F)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)O)F | C23H16F3N3O4
